US04771055
3-Methyl-1-(phenylmethyl)-3-pyrrolidinecarbonitrile
A suspension of 11.6 g (0.05 mole) of N-benzyl-N-(cyanomethyl)-N-[(trimethylsilyl)methyl]amine [J. Org. Chem., 50, 4006 (1985)], 3.5 g (0.052 mole) of methacrylonitrile, 7.0 g (0.55 mole) of silver fluoride, and 150 ml of acetonitrile was stirred overnight at room temperature in the dark. The mixture was then diluted with chloroform (150 ml) and filtered through Celite. Concentration of the filtrate gave an oil which was subjected to silica gel chromatography using an 80:20 chloroform:ethyl acetate mixture as the eluent. The major fraction contained 2.5 g of the titled compound.

reactant | N-benzyl-N-(cyanomethyl)-N-[(trimethylsilyl)methyl]amine | 0.05 mole, 11.6 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)CC#N | C13H20N2Si
reactant | methacrylonitrile | 0.052 mole, 3.5 g | C(C(=C)C)#N | C4H5N
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver fluoride | 0.55 mole, 7.0 g | [Ag]F
product | 3-Methyl-1-(phenylmethyl)-3-pyrrolidinecarbonitrile | 2.5 g | CC1(CN(CC1)CC1=CC=CC=C1)C#N | C13H16N2
